US08802678B2
A suspension of 0.41 g (1 mmol) of 1-(2,3-dichlorophenyl)-4-(2-piperidin-4-ylethyl)piperazine, dihydrochloride in 25 mL of isopropanol and 0.29 g (2.1 mmol) of potassium carbonate is stirred for 30 minutes then 0.08 g (1.1 mmol of 2-ethyloxirane is added. The suspension is stirred to reflux overnight. The precipitate is filtered and the solution is concentrated under reduced pressure. The residue is dissolved in ethyl acetate, washed with water and with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is purified over 10 g of silica gel (dichloromethane/methanol 90/10) to give 0.2 g (50%) of 1-(4-{2-[4-(2,3-dichlorophenyl)piperazin-1-yl]ethyl}piperidin-1-yl)butan-2-ol as an oil that crystallizes upon standing.

reactant | 1-(2,3-dichlorophenyl)-4-(2-piperidin-4-ylethyl)piperazine, dihydrochloride | 1 mmol, 0.41 g | Cl.Cl.ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCC1CCNCC1
reactant | potassium carbonate | 2.1 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethyloxirane | 1.1 mmol | C(C)C1OC1 | C4H8O
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 1-(4-{2-[4-(2,3-dichlorophenyl)piperazin-1-yl]ethyl}piperidin-1-yl)butan-2-ol | 0.2 g, 50% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCC1CCN(CC1)CC(CC)O | C21H33Cl2N3O
